US07846956B2
Under a nitrogen atmosphere, 0.57 g of lithium aluminum hydride was suspended in 100 ml of dry tetrahydrofuran, and a solution of 3.01 g of methyl 1-cyclohexyl-1H-pyrazole-4-carboxylate in 40 ml of tetrahydrofuran was added dropwise thereto over 15 minutes with stirring at 0° C. After completion of the addition, the mixture was stirred at room temperature for 7 hours and then cooled to 0° C. Thereto 10 ml of a 1 mol/L aqueous saturated sodium hydroxide solution was added dropwise. Produced precipitates were filtered and then washed with tetrahydrofuran. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.68 g of (cyclohexyl-1H-pyrazol-4-yl)methanol.

reactant | lithium aluminum hydride | 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1-cyclohexyl-1H-pyrazole-4-carboxylate | 3.01 g | C1(CCCCC1)N1N=CC(=C1)C(=O)OC | C11H16N2O2
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (cyclohexyl-1H-pyrazol-4-yl)methanol | 1.68 g | C1(CCCCC1)N1N=CC(=C1)CO | C10H16N2O
